US07507748B2
Preparation of 3-nitro-5,6,7,8-tetrahydro-[1,6]naphthyridine
To the solution of 3-nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester (6.14 g, 22 mmol) in CH2Cl2 (60 mL) was added TFA (7 mL). The reaction was stirred for 18 h at RT. After evaporation of the solvent, the residue was taken into water and neutralized with saturated NaHCO3 aqueous solution. The solid was filtered and washed with cold water and dried. The solid was recrystallized from CH3CN to give desired title compound as pale white solid. MS (ES+): 180.1 (M+H)+. Calc'd for C8H9N3O2—179.07.

reactant | 3-nitro-7,8-dihydro-5H-[1,6]naphthyridine-6-carboxylic acid tert-butyl ester | 22 mmol, 6.14 g | C(C)(C)(C)OC(=O)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C13H17N3O4
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-5,6,7,8-tetrahydro-[1,6]naphthyridine | [N+](=O)([O-])C=1C=NC=2CCNCC2C1 | C8H9N3O2
